US04179505
A mixture of 8.3 parts of 4-amino-3-nitrobenzaldehyde in 200 parts of methanol is hydrogenated at normal pressure and at room temperature with 5 parts of Raney-nickel catalyst. After a calculated amount of hydrogen is taken up, the catalyst is filtered off and the filtrate is evaporated, yielding 8.5 parts of 3,4-diaminobenzenemethanol as an oily residue.

reactant | 4-amino-3-nitrobenzaldehyde | NC1=C(C=C(C=O)C=C1)[N+](=O)[O-] | C7H6N2O3
reactant | hydrogen | [H][H] | H2
catalyst | Raney-nickel | [Ni] | Ni
solvent | methanol | CO | CH4O
product | 3,4-diaminobenzenemethanol | NC=1C=C(C=CC1N)CO | C7H10N2O
